US04579585
4(1-Methoxymethyl-ethenyl)-nitrobenzene
To a CH3ONa-solution from 6.9 g (0.3 gramatom) Na and 600 ml absolute CH3OH are added 59.3 g (0.3 Mol) 4(1-chloromethyl-ethenyl)-nitrobenzene, the reaction mixture heated under reflux for 2 hours and then evaporated to dryness. The residue is digested with diethylether, the ethereal solution filtered and the filtrate concentrated by evaporation. The residue is then chromatographed on silica gel (eluant n-hexane/diethylether 1:1) to give the title compound in analytically pure form (Rf=0.37 on silica gel with CHCl3).

reactant | CH3ONa | CO[Na]
reactant | 4(1-chloromethyl-ethenyl)-nitrobenzene | 0.3 Mol, 59.3 g | ClCC(=C)C1=CC=C(C=C1)[N+](=O)[O-] | C9H8ClNO2
solvent | CH3OH | 600 ml | CO | CH4O
product | 4(1-Methoxymethyl-ethenyl)-nitrobenzene | COCC(=C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO3
